US09102591B2
2-chloro-N-(2-(tetr ahydro-2H-pyran-4-yl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide
From 2-chlorobenzoic acid and 2-(tetrahydro-2H-pyran-4-yl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine. LCMS (MH+): m/z=414.1, tR (minutes, Method F)=2.54

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 2-(tetrahydro-2H-pyran-4-yl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethanamine | O1CCC(CC1)C(CN)C=1C=NC(=NC1)C(F)(F)F | C12H16F3N3O
product | 2-chloro-N-(2-(tetr ahydro-2H-pyran-4-yl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)ethyl)benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=NC2)C(F)(F)F)C2CCOCC2)C=CC=C1 | C19H19ClF3N3O2
